US06509329B1
Synthesis of N,N′-bis[2-(3,4,5-Trimethoxyphenyl)benzyl]-homopiperazine Dihydrochloride
2-(3,4,5-Trimethoxyphenyl)benzyl chloride (307 mg) and homopiperazine (53 mg) were reacted in the same manner as in Example 1 to obtain a free base of the title compound. This compound was converted into a dihydrochloride in the same manner as in Example 1.

reactant | 2-(3,4,5-Trimethoxyphenyl)benzyl chloride | 307 mg | COC=1C=C(C=C(C1OC)OC)C1=C(CCl)C=CC=C1 | C16H17ClO3
reactant | homopiperazine | 53 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[2-(3,4,5-Trimethoxyphenyl)benzyl]-homopiperazine Dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=C(CN2CCN(CCC2)CC2=C(C=CC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC=C1 | InChI=1S/C37H44N2O6.2ClH/c1-40-32-20-28(21-33(41-2)36(32)44-5)30-14-9-7-12-26(30)24-38-16-11-17-39(19-18-38)25-27-13-8-10-15-31(27)29-22-34(42-3)37(45-6)35(23-29)43-4;;/h7-10,12-15,20-23H,11,16-19,24-25H2,1-6H3;2*1H
